US08278230B2
In the next step, 55.0 g (278 mmol) of this (5Z)-3-methylnon-5-enyl acetate was dissolved in 600 mL of a 1:1 mixture of ethanol and water. With vigorous stirring, 55.5 g (1.39 mol) of sodium hydroxide was added, and the reaction mixture was subsequently heated to reflux for 3 h. After the reaction mixture had cooled to room temp., the ethanol was removed in a rotary evaporator under reduced pressure, and the resulting residue diluted with 300 mL of water. The crude product was extracted twice with 500 mL of ether each, and the combined organic extracts were washed twice with 300 mL of brine. After drying with sodium sulphate and removal of the solvent under reduced pressure, the resulting residue (51.2 g) was purified by flash chromatography (1.00 kg of silica gel, pentane/ether, 9:1, Rf=0.11) to provide 39.9 g (92%) of (5Z)-3-methylnon-5-en-1-ol as a colourless liquid.

reactant | (5Z)-3-methylnon-5-enyl acetate | 278 mmol, 55.0 g | C(C)(=O)OCCC(C\C=C/CCC)C | C12H22O2
reactant | sodium hydroxide | 1.39 mol, 55.5 g | [OH-].[Na+]
solvent | ethanol | C(C)O | C2H6O
solvent | water | O | H2O
product | (5Z)-3-methylnon-5-en-1-ol | 39.9 g, 92% | CC(CCO)C\C=C/CCC | C10H20O
